US09382237B2
3-([1,1′-biphenyl]-3-ylamino)-2-cyano-3-(methylthio)acrylamide was then suspended in 10 mL EtOH and hydrazine hydrate (124 μL, 1.0 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 3-([1,1′-biphenyl]-4-ylamino)-5-amino-1H-pyrazole-4-carboxamide as a yellow powder. Product was allowed to dry under vacuum for 1 hr.

reactant | 3-([1,1′-biphenyl]-3-ylamino)-2-cyano-3-(methylthio)acrylamide | C1(=CC(=CC=C1)NC(=C(C(=O)N)C#N)SC)C1=CC=CC=C1 | C17H15N3OS
reactant | hydrazine hydrate | 124 μL, 1.0 eq. | O.NN
reactant | EtOH | 10 mL | CCO | C2H6O
product | 3-([1,1′-biphenyl]-4-ylamino)-5-amino-1H-pyrazole-4-carboxamide | C1(=CC=C(C=C1)NC1=NNC(=C1C(=O)N)N)C1=CC=CC=C1 | C16H15N5O
